US06080772
To 72.5 g of 2-amino-5-nitrothiazole in 300 mL of 48% hydrobromic acid and 200 mL of water stirred and cooled to about -10° C. was slowly added, in portions, 51.8 g of sodium nitrite dissolved in 80 mL of water from one addition funnel and 250 mL of n-amyl alcohol from a second addition funnel. The addition of both solutions required about 3 hours. The cooling bath was removed and the mixture allowed to warm to about 15° C. overnight and then stirred at room temperature for 2 hours. The solid was collected by vacuum filtration and steam distilled to give 67 g of crude product. The crude product was recrystallized from hot ethanol to give 61 g (60% yield) of the 2-bromo-5-nitrothiazole as a yellow solid.

reactant | 2-amino-5-nitrothiazole | 72.5 g | NC=1SC(=CN1)[N+](=O)[O-] | C3H3N3O2S
reactant | sodium nitrite | 51.8 g | N(=O)[O-].[Na+]
reactant | hydrobromic acid | 300 mL | Br | BrH
solvent | water | 200 mL | O | H2O
solvent | water | 80 mL | O | H2O
solvent | n-amyl alcohol | 250 mL | CCCCCO | C5H12O
product | 2-bromo-5-nitrothiazole | 61 g, 60% yield | BrC=1SC(=CN1)[N+](=O)[O-] | C3HBrN2O2S
